US08686044B2
Preparation of N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-2-chlorothiazole-4-carboxamide
According to the method of 4-3 of Example 4, a target compound was prepared from 2-chlorothiazole-4-carbonylchloride prepared from 2-chlorothiazole-4-carboxylic acid and thionyl chloride, and 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline obtained in 1-2 of Example 1.

reactant | 2-chlorothiazole-4-carbonylchloride | ClC=1SC=C(N1)C(=O)Cl | C4HCl2NOS
reactant | 2-chlorothiazole-4-carboxylic acid | ClC=1SC=C(N1)C(=O)O | C4H2ClNO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F | C10H4BrF10N
product | N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-2-chlorothiazole-4-carboxamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(=O)C=1N=C(SC1)Cl | C14H4BrClF10N2OS
